US08202857B2
(S)-1-((S)-1-(4-(1-methyl-2-oxo-1,2-dihydropyridin-4-yl)phenyl)ethyl)-4-(2-methylallyl)-4-phenyl-1,3-diazepan-2-one
The title compound was prepared following a procedure analogous to that described in Example 10 Step 3 using (S)-4-(2-methylallyl)-4-phenyl-1-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-diazepan-2-one and 4-iodo-1-methylpyridin-2(1H)-one.

reactant | (S)-4-(2-methylallyl)-4-phenyl-1-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-diazepan-2-one | CC(C[C@]1(NC(N(CCC1)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O)C1=CC=CC=C1)=C | C29H39BN2O3
reactant | 4-iodo-1-methylpyridin-2(1H)-one | IC1=CC(N(C=C1)C)=O | C6H6INO
product | (S)-1-((S)-1-(4-(1-methyl-2-oxo-1,2-dihydropyridin-4-yl)phenyl)ethyl)-4-(2-methylallyl)-4-phenyl-1,3-diazepan-2-one | CN1C(C=C(C=C1)C1=CC=C(C=C1)[C@H](C)N1C(N[C@](CCC1)(C1=CC=CC=C1)CC(=C)C)=O)=O | C29H33N3O2
